US07067517B2
Methyl-phenyl-carbamic acid 4-[(pyridin-2-ylmethyl)-carbamoyl]-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and 2-aminomethylpyridine. The crude product was used without further purification (57%, oil). HPLC-MS: m/z=362.2 (M+1); Rt: 2.43 min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | 2-aminomethylpyridine | NCC1=NC=CC=C1 | C6H8N2
product | Methyl-phenyl-carbamic acid 4-[(pyridin-2-ylmethyl)-carbamoyl]-phenyl ester | N1=C(C=CC=C1)CNC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C21H19N3O3
